US09353102B2
5-[(3-Carboxy-bicyclo[2.2.2]oct-2-ene-2-carbonyl)-amino]-3-methyl-4-(4-methyl-thiazol-2-yl)-thiophene-2-carboxylic acid methyl ester
To the solution of methyl 5-amino-3-methyl-4-(4-methylthiazol-2-yl)thiophene-2-carboxylate (61 mg, 227 μmol, Int1.2) in CH3CN (7 mL) were added DMAP (55.5 mg, 455 μmol) and bicyclo[2.2.2]oct-2-ene-2,3-dicarboxylic anhydride (40.5 mg, 227 μmol, CAS RN 151813-29-5). After stirring at RT for 3 h, the reaction mixture was stirred at 65° C. overnight. The reaction mixture was extracted with EtOAc and 1M aqueous HCl, the organic layer was dried over Na2SO4, filtered and evaporated. The compound was purified by silica gel chromatography using a mixture of CH2Cl2:MeOH (20:1 v/v) as eluant. Brown solid. MS (ESI): m/z=447.1 [M+H]+.

reactant | methyl 5-amino-3-methyl-4-(4-methylthiazol-2-yl)thiophene-2-carboxylate | 227 μmol, 61 mg | NC1=C(C(=C(S1)C(=O)OC)C)C=1SC=C(N1)C | C11H12N2O2S2
reactant | bicyclo[2.2.2]oct-2-ene-2,3-dicarboxylic anhydride | 227 μmol, 40.5 mg | C12C3=C(C(CC1)CC2)C(=O)OC3=O | C10H10O3
solvent | CH3CN | 7 mL | CC#N | C2H3N
catalyst | DMAP | 455 μmol, 55.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-[(3-Carboxy-bicyclo[2.2.2]oct-2-ene-2-carbonyl)-amino]-3-methyl-4-(4-methyl-thiazol-2-yl)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=C(C1C)C=1SC=C(N1)C)NC(=O)C=1C2CCC(C1C(=O)O)CC2 | C21H22N2O5S2
